US09422281B2
A reaction vial was charged with (S)-isopropyl 7-bromo-3-methyl-4-(methylcarbamoyl)-3,4-dihydropyrido[2,3-b]pyrazine-1 (2H)-carboxylate (0.015 g, 0.04 mmol), 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.2 M solution in 1,4-dioxane, 0.40 mL, 0.080 mmol), potassium carbonate (1.0 M solution in water, 0.120 mL, 0.120 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.02 M solution in 1,2-dichloroethane, 0.200 mL, 0.004 mmol). The reaction was purged with nitrogen and heated to 80° C. on a heater shaker overnight. The reaction was diluted with ethyl acetate and washed with brine. The combined organic layers were concentrated under a stream of nitrogen. The crude product was purified by mass triggered preparatory HPLC. The product-containing fractions were combined and concentrated to afford (S)-isopropyl 7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-4-(methylcarbamoyl)-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 399 [M+H]+.

reactant | (S)-isopropyl 7-bromo-3-methyl-4-(methylcarbamoyl)-3,4-dihydropyrido[2,3-b]pyrazine-1 (2H)-carboxylate | 0.04 mmol, 0.015 g | BrC1=CC2=C(N([C@H](CN2C(=O)OC(C)C)C)C(NC)=O)N=C1 | C14H19BrN4O3
reactant | 1-cyclopropyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.080 mmol, 0.2 M, 0.40 mL | C1(CC1)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
reactant | potassium carbonate | 0.120 mmol, 1.0 M, 0.120 mL | C([O-])([O-])=O.[K+].[K+]
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.004 mmol, 0.02 M, 0.200 mL | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (S)-isopropyl 7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-4-(methylcarbamoyl)-3,4-dihydropyrido[2,3-b]pyrazine-1(2H)-carboxylate | C1(CC1)N1N=CC(=C1)C1=CC2=C(N([C@H](CN2C(=O)OC(C)C)C)C(NC)=O)N=C1 | C20H26N6O3
